US04207317
The starting material is prepared as follows: The mixture of 1.3 g of diethyl α-acetyl-malonate, 1.3 g of 3,4-dichlorophenylhydrazine hydrochloride, 0.5 g of sodium acetate, 30 ml of ethanol and 10 ml of water is warmed on the steam cone for 10 minutes. It is diluted with water, extracted with diethyl ether, the extract washed with water, dried and evaporated. The residue is taken up in 50 ml of xylene, the solution distilled for 10 minutes and refluxed for 85 minutes. It is evaporated and the residue triturated with diethyl ether to yield the 1-(3,4-dichlorophenyl)-3-methyl-4-carbethoxy-2-pyrazolin-5-one, melting at 147°-148°.

reactant | diethyl α-acetyl-malonate | 1.3 g | C(C)(=O)C(C(=O)OCC)C(=O)OCC | C9H14O5
reactant | 3,4-dichlorophenylhydrazine hydrochloride | 1.3 g | Cl.ClC=1C=C(C=CC1Cl)NN
reactant | sodium acetate | 0.5 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | 1-(3,4-dichlorophenyl)-3-methyl-4-carbethoxy-2-pyrazolin-5-one | ClC=1C=C(C=CC1Cl)N1N=C(C(C1=O)C(=O)OCC)C | C13H12Cl2N2O3
